### PR TITLE
[Merged by Bors] - feat: extend results on product measures from sigma-finite to s-finite measures

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/AEMeasurable.lean [hunk 1]
```diff
@@ -447,3 +446,23 @@ lemma MeasureTheory.NullMeasurable.aemeasurable_of_aerange {f : α → β} {t :
     lift f' to α → t using hf't
     replace hf'm : NullMeasurable f' μ := hf'm.measurable'.subtype_mk
     exact (measurable_subtype_coe.comp_aemeasurable hf'm.aemeasurable).congr hff'.symm
+
+namespace MeasureTheory
+
+lemma map_sum {ι : Type*} {m : ι → Measure α} {f : α → β}
```
Comment (urkud) [inline Mathlib/MeasureTheory/Measure/AEMeasurable.lean:452]: Should this lemma be protected? Also, the `map_add` version is in the `MeasureTheory.Measure` namespace.

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean [hunk 2]
```diff
@@ -494,7 +494,39 @@ instance isFiniteMeasure_sFiniteSeq [h : SFinite μ] (n : ℕ) : IsFiniteMeasure
 lemma sum_sFiniteSeq (μ : Measure α) [h : SFinite μ] : sum (sFiniteSeq μ) = μ :=
   h.1.choose_spec.2.symm
 
+/-- A countable sum of finite measures is s-finite. -/
+lemma sfinite_sum_of_countable {ι : Type*} [Countable ι]
+    (m : ι → Measure α) [∀ n, IsFiniteMeasure (m n)] : SFinite (Measure.sum m) := by
+  classical
+  obtain ⟨f, hf⟩ : ∃ f : ι → ℕ, Function.Injective f := Countable.exists_injective_nat ι
+  let e : ι ≃ range f := Equiv.ofInjective f hf
+  let m' : ℕ → Measure α := fun n ↦ if hn : n ∈ range f then m (e.symm ⟨n, hn⟩) else 0
```
Comment (urkud) [inline Mathlib/MeasureTheory/Measure/Typeclasses.lean:503]: I see 2 ways to move parts of this proof to reusable lemmas.

* Add `Measure.sum_comp_equiv`, instances for `IsFiniteMeasure (∑ i, f i)` and `[Finite ι] : IsFiniteMeasure (.sum f)`, then treat `[Finite ι]` and `[Infinite ι]` separately.
* Add `Measure.sum_extend_zero` using `Function.extend` instead of the equivalent definition you use, then apply it.

Maybe, we should have all these supporting lemmas/instances.

File: Mathlib/MeasureTheory/Measure/AEMeasurable.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/AEMeasurable.lean:452]: I haven't protected it since `map_add` isn't either. And I haven't put in the Measure namespace as there is no possible use of dot notation. But I agree that the conflict with root's `map_add` and `map_sum` are a little bit annoying. I could rename them to `map_add_measure` and `map_sum_measure`?

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean [hunk 3]
```diff
@@ -494,7 +494,39 @@ instance isFiniteMeasure_sFiniteSeq [h : SFinite μ] (n : ℕ) : IsFiniteMeasure
 lemma sum_sFiniteSeq (μ : Measure α) [h : SFinite μ] : sum (sFiniteSeq μ) = μ :=
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Typeclasses.lean:494]: No, because most of the time it's used in the reverse direction: start from `μ`, break it into pieces, and argue separately on the pieces. You don't want `simp` to undo that.

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Typeclasses.lean:503]: I have added `Measure.sum_comp_equiv` and `Measure.sum_extend_zero`. Indeed, the proof becomes nicer with these! On the other hand, I don't think that splitting into finite or infinite \iota would make things nicer.

File: Mathlib/MeasureTheory/Measure/AEMeasurable.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/AEMeasurable.lean]: Finally I have moved it to `MeasureTheory.Measure`, for coherence and to avoid the chances of clashes with the root one (it is more common to open `MeasureTheory` than `MeasureTheory.Measure`).

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Measure/Typeclasses.lean]: I generalized `sum_extend_zero` and `Function.apply_extend`.
bors d+
